Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet / Demerol
 
Attending: ___.
 
Chief Complaint:
Abdominal pain with bloody bowel movements
 
Major Surgical or Invasive Procedure:
___: Flex-Sig 
___: Flex-Sig with biopsy
___: Laparoscopic converted to open abdominal colectomy with 
end ileostomy

 
History of Present Illness:
___ year old F with Crohn's on Asacol who presents with abdominal 
pain, nausea, and diarrhea. Pt recently placed on two steroid 
tapers due to oral ulcers. When she tapered off her steroids 
less than a week ago, she developed abdominal pain, nausea, 
vomiting and diarrhea. Reports watery diarrhea. Minimal blood. 
No fevers or chills. Abdominal pain mainly in L side. 

Says last flare was in ___, though she does have mild pain 
intermittently. Pt trialed on Remicade in ___ but had some 
pulmonary side effects and has been on oral and prn rectal 
mesalamine.  Followed by Dr. ___ at ___.

ROS: negative except as above
 
Past Medical History:
PMH:
- Crohn's colitis
- Polyarthropathy - hands, elbows, knees and ankles.
- Hypertension
- GERD
- Gastroparesis
- R iritis/episcleritis

PSH:
- 1L lower GI bleed from sigmoid ulcer ___
- Cholecystectomy ___
- C-section x2
- Ectopic pregnancy
- Total abdominal hysterectomy and unilateral (L) 
salpingo-oophorectomy ___
 
Social History:
___
Family History:
No family history of IBD.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: 97.8 126/78 76 18 96%RA
Gen: uncomfortable, NAD
HEENT: no oral ulcers, anicteric
CV: rrr, no r/m/g
Pulm: clear bl
Abd: tender in LLQ, hyperactive bowel sounds, soft
Ext: no edema
Neuro: alert and oriented x 3

DISCHARGE PHYSICAL EXAM:
Upon discharge, the patient had stable vital sings. Her VAC was 
intact over her midline incision. Her JP site dressing was 
c/d/i. Her ostomy was healthy appearing with liquid stool 
output. Her exam was otherwise unchanged from admission. 
 
Pertinent Results:
ADMISSION LABS:
====================
___ 02:55PM   WBC-13.5*# RBC-4.73 HGB-13.9 HCT-39.4 MCV-83# 
MCH-29.4 MCHC-35.3* RDW-12.9
___ 02:55PM   PLT COUNT-367
___ 02:55PM   CRP-113.6*
___ 02:55PM   GLUCOSE-90 UREA N-12 CREAT-0.9 SODIUM-137 
POTASSIUM-3.3 CHLORIDE-101 TOTAL CO2-23 ANION GAP-16
___ 02:55PM   ALT(SGPT)-14 AST(SGOT)-12 ALK PHOS-78 TOT 
BILI-0.9
___ 02:55PM   LIPASE-32
___ 02:55PM   ALBUMIN-3.6 CALCIUM-9.4 PHOSPHATE-2.9 
MAGNESIUM-1.9
___ 02:55PM   ___ PTT-25.2 ___
___ 03:06PM   LACTATE-1.2

___ 03:35PM URINE  RBC-0 WBC-26* BACTERIA-FEW YEAST-NONE 
EPI-14

___ Quantaferon-Gold: NEGATIVE
___ TPMT: 17 (WNL)

MICROBIOLOGY:
====================
___ Blood culture x 1 set: No growth (FINAL)
___ C. diff: NEGATIVE
___ Urine culture: No growth
___ C. diff: NEGATIVE
___ CMV viral load: CMV DNA NOT detected.
.
.
IMAGING:
==================
___ CT Abdomen/Pelvis: 
1. Acute left hemi-colitis likely due to acute Crohn's flare. No 
signs of complication. 
2. Spondylolysis and spondylolisthesis at L5-S1. 
.
___ KUB
IMPRESSION:
Unremarkable exam.
.
___ Flexible Sigmoidoscopy
Findings:
Mucosa:Diffuse ulceration, granularity and erythema were noted 
in the rectum, sigmoid colon and descending colon. These 
findings are compatible with Crohn's disease. Cold forceps 
biopsies were performed for histology at the rectum.
Impression:
Ulceration, granularity and erythema in the rectum, sigmoid 
colon and descending colon compatible with Crohn's disease 
(biopsy)
.
___ CT Abdomen/Pelvis
IMPRESSION:
1. Improved transverse and descending colitis.
2.  Spondylolysis of L5-S1 with grade 1 spondylolisthesis.
.
___ Abdominal X-Ray
IMPRESSION:
Mild distention of the transverse colon minimally increased from 
prior study with no evidence of obstruction.
.
PATHOLOGY:
===================
___ Flex-Sig biopsy
Chronic mildly active colitis.
Note: No granulomata or dysplasia identified
 
Brief Hospital Course:
___ yo F with Crohn's, previously well maintained on mesalamine, 
who presented ___ with nausea, abdominal pain and bloody BM's.  
Admitted to Medicine for evaluation and management. Had elevated 
ESR/CRP and left-sided colitis seen on CT scan, overall c/w 
Crohn's disease with acute exacerbation.  C. difficile negative, 
so was started on IV Solumedrol per GI rec (___).  CRP 
responded accordingly, but continued to have severe cramping 
pain and bloody diarrhea when tried to eat.  Underwent flex-sig 
which did show active colitis, biopsy taken showing mild chronic 
active colitis.  Her Crohn's history is notable for extra-GI 
manifestations of arthropathy and scleritis.  She had previously 
been on Remicade, but this was stopped due to pulmonary side 
effects.  Hep B serologies suggest she is Hep B immune.  TPMT 
was WNL, Quant-Gold was NEGATIVE. Labs remained stable.  
Cortifoam was added for relief from tenesmus.  Pt. improved 
slowly and was able to advance to a low-residue diet.  However, 
she then decompensated, with worsening abdominal pain and bloody 
BM's.  She was ruled out for C. diff a ___ time and a CT was 
obtained, which ruled out abscess.  She was then started on IV 
cyclosporine infusion, and although feeling better on IV 
cyclosporine, her CRP continued to rise.  A CMV viral load was 
sent and was negative.  Colorectal Surgery was also consulted 
for possible colectomy.  She was maintained on heparin SQ for 
DVT prophylaxis for IBD flare. Flex sigmoidoscopy was repeated 
on ___ showing few punched out ulcers and findings consistent 
with colitis. Biopsy was taken with resultant CMV negative on 
immunostain.

Since patient was not improving with medical therapy alone, 
decision was made to intervene surgically. Patient was taken to 
the OR on ___ where she underwent laparoscopic converted to 
open total abdominal colectomy with end ileostomy. The procedure 
was converted to open due to a distended colon that made 
exposure difficult. 
Patient tolerated the procedure well. At the conclusion of the 
case, a Prevena vac was placed over the midline incision, 
surgical drain at the LLQ and a ___ drain in the rectum. 
After a brief and uneventful stay in the recovery room, patient 
was transferred to the surgical service for post-operative care.

Post-op, patient was kept NPO with IVF. Pain was controlled on 
PCA. Patient received IV hydrocortisone post-op, which was 
tapered in subsequent days. Diet was gradually advanced starting 
POD1, and patient was tolerating a regular diet on POD2. Both 
Foley catheter and rectal ___ drain were removed on POD2. 
Once tolerating oral intake, medications were transitioned to 
oral form. Pain regimen consistent of Dilaudid, Tylenol, and 
gabapentin. Patient was started on prophylactic Lovenox on POD3. 


Patient was discharged on POD7 to home with ___ services. At 
time of discharge, pain was well-controlled on oral medications. 
Patient was tolerating a regular diet, ambulating independently, 
voiding, and producing stool via the ostomy. She was discharged 
on prophylactic Lovenox. On day of discharge, prednisone had 
been tapered down to 5 mg, which was to be continued for another 
3 days after which dose would be decreased to 2.5 mg raily for 3 
days. Patient will follow up with Ostomy Nurse ___ 
___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lidocaine Viscous 2% 15 mL PO BID:PRN pain 
2. Mesalamine 2400 mg PO BID 
3. Mesalamine (Rectal) ___AILY 
4. Omeprazole 40 mg PO DAILY 
5. PredniSONE 10 mg PO DAILY 
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
7. triamcinolone acetonide 0.1 % dental BID 

 
Discharge Medications:
1. PredniSONE 5 mg PO DAILY 
Take 2 tabs (5 mg) for 3 days ___ - ___
Take 1 tab (2.5 mg) for 3 days (___) 
Tapered dose - DOWN 
RX *prednisone 2.5 mg 2 tablet(s) by mouth once a day Disp #*9 
Tablet Refills:*0
2. Acetaminophen 1000 mg PO Q8H:PRN pain 
3. Enoxaparin Sodium 40 mg SC DAILY 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
Take for 30 days following surgery 
RX *enoxaparin 40 mg/0.4 mL 40 mg Daily Disp #*28 Syringe 
Refills:*0
4. Gabapentin 300 mg PO BID 
RX *gabapentin 300 mg 1 capsule(s) by mouth twice a day Disp 
#*60 Capsule Refills:*0
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg 1 - 2 tablet(s) by mouth every 
four (4) hours Disp #*30 Tablet Refills:*0
6. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral DAILY 
7. Lidocaine Viscous 2% 15 mL PO BID:PRN pain 
8. Omeprazole 40 mg PO DAILY 
9. triamcinolone acetonide 0.1 % dental BID 
10. Mesalamine 2400 mg PO BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Crohn disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

___ were admitted to the hospital for an acute exacerbation of 
your Crohn's disease, which required surgical treatment. ___ 
underwent an open total abdominal colectomy with end ileostomy. 
___ have recovered from this procedure well and ___ are now 
ready to return home. Samples from your colon were taken and 
this tissue has been sent to the pathology department for 
analysis. ___ will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact ___ regarding these results they will contact 
___ before this time. ___ have tolerated a regular diet, passing 
gas and your pain is controlled with pain medications by mouth. 
___ may return home to finish your recovery.

___ have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. The output from the 
stoma is stool from the small intestine and the water content is 
very high. The stool is no longer passing through the large 
intestine which is where the water from the stool is reabsorbed 
into the body and the stool becomes formed. ___ must measure 
your ileostomy output for the next few weeks. The output from 
the stoma should not be more than 1200cc or less than 500cc. If 
___ find that your output has become too much or too little, 
please call the office for advice. The office nurse or nurse 
practitioner can recommend medications to increase or slow the 
ileostomy output. Keep yourself well hydrated, if ___ notice 
your ileostomy output increasing, take in more electrolyte drink 
such as Gatorade. Please monitor yourself for signs and symptoms 
of dehydration including: dizziness (especially upon standing), 
weakness, dry mouth, headache, or fatigue. If ___ notice these 
symptoms please call the office or return to the emergency room 
for evaluation if these symptoms are severe. ___ may eat a 
regular diet with your new ileostomy. However it is a good idea 
to avoid fatty or spicy foods and follow diet suggestions made 
to ___ by the ostomy nurses.

___ monitor the appearance of the ostomy and stoma and care 
for it as instructed by the wound/ostomy nurses. ___ stoma 
(intestine that protrudes outside of your abdomen) should be 
beefy red or pink, it may ooze small amounts of blood at times 
when touched and this should subside with time. The skin around 
the ostomy site should be kept clean and intact. Monitor the 
skin around the stoma for bulging or signs of infection listed 
above. Please care for the ostomy as ___ have been instructed by 
the wound/ostomy nurses. ___ will be able to make an appointment 
with the ostomy nurse in the clinic 7 days after surgery. ___ 
will have a visiting nurse at home for the next few weeks 
helping to monitor your ostomy until ___ are comfortable caring 
for it on your own.

___ have a long vertical incision on your abdomen that is closed 
with staples. This incision is covered with a VAC dressing. When 
this is removed, it can be left open to air or covered with a 
dry sterile gauze dressing if the staples become irritated from 
clothing. The staples will stay in place until your first 
post-operative visit at which time they can be removed in the 
clinic, most likely by the office nurse. Please monitor the 
incision for signs and symptoms of infection including: 
increasing redness at the incision, opening of the incision, 
increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if ___ develop a 
fever. Please call the office if ___ develop these symptoms or 
go to the emergency room if the symptoms are severe. ___ may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub.

No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by your surgical team. ___ may gradually 
increase your activity as tolerated but clear heavy exercise 
with your surgical team.

___ will be prescribed a small amount of the pain medication 
oxycodone. Please take this medication exactly as prescribed. 
___ may take Tylenol as recommended for pain. Please do not take 
more than 4000mg of Tylenol daily. Do not drink alcohol while 
taking narcotic pain medication or Tylenol. Please do not drive 
a car while taking narcotic pain medication.

Thank ___ for allowing us to participate in your care! Our hope 
is that ___ will have a quick return to your life and usual 
activities. Good luck!

 
Followup Instructions:
___